US08530470B2
To a suspension of methyl 3-acetyl-5-bromo-4-hydroxybenzoate (70 g, 243.52 mmol) in THF (700 mL) at −50° C. under nitrogen (flask equipped with a bleach trap) was added lithium bis(trimethylsilyl)amide (828 ml, 828 mmol). The dark solution was allowed to warm to −5° C. and stirred for 2 h. Carbon disulfide (22 mL, 365 mmol) was added in one portion to the solution at −20° C. then the mixture was stirred at room temperature overnight. Water (700 mL) was added, the THF layers was washed with water (2×350 mL). The aqueous phases were combined and cooled to 0° C. and quenched with H2SO4 (108 ml, 1948 mmol) in a vessel equipped with a bleach trap to neutralize the H2S formed. The mixture was stirred at room temperature for 3 h, DCM was added (700 mL) and mixture was stirred at room temperature overnight. The aqueous phase was extracted with DCM (2×). The organic phases were combined, washed with brine, dried over MgSO4, filtered and evaporated to afford an orange solid. This solid was triturated in diethyl ether, filtered and dried to give methyl 8-bromo-4-hydroxy-2-thioxo-2H-chromene-6-carboxylate (48.7 g, 63%) as a yellow/orange solid. Mass Spectrum: m/z [M+H]+=317.

reactant | methyl 3-acetyl-5-bromo-4-hydroxybenzoate | 243.52 mmol, 70 g | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1O)Br | C10H9BrO4
reactant | lithium bis(trimethylsilyl)amide | 828 mmol, 828 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Carbon disulfide | 365 mmol, 22 mL | C(=S)=S | CS2
reactant | H2SO4 | 1948 mmol, 108 ml | OS(=O)(=O)O | H2O4S
reactant | H2S | S | H2S
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | 700 mL | O | H2O
product | methyl 8-bromo-4-hydroxy-2-thioxo-2H-chromene-6-carboxylate | 48.7 g, 63% | BrC=1C=C(C=C2C(=CC(OC12)=S)O)C(=O)OC | C11H7BrO4S
